US03974289
(i) 4-Hydroxy-3-nitro-7-n-propoxycoumarin
Fuming nitric acid (15 ml) was added to a stirred suspension of 4-hydroxy-7-n-propoxycoumarin (m.p. 216°-8°; 3.0g) in chloroform (300 ml) at room temperature over one hour. After a further hour, the solvent was removed in vacuo and 6N hydrochloric acid (60 ml) added to the residue. Filtration and recrystallisation from ethanol gave the product, m.p. 151°-2°, (C12H11NO6 requires C, 54.34; H, 4.18; N, 5.28. Found: C, 54.38; H, 4.28; N, 5.24).

reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxy-7-n-propoxycoumarin | 3.0g | OC1=CC(OC2=CC(=CC=C12)OCCC)=O | C12H12O4
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Hydroxy-3-nitro-7-n-propoxycoumarin | OC1=C(C(OC2=CC(=CC=C12)OCCC)=O)[N+](=O)[O-] | C12H11NO6
